US07332508B2
1-(1-Ethylpropyl)-4-{3-[5-(4-cyclohexylphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-(1-ethylpropyl)piperidin-4-yl)-N-hydroxybutyramidine and 4-cyclohexylbenzoyl chloride.

reactant | 4-(1-(1-ethylpropyl)piperidin-4-yl)-N-hydroxybutyramidine | C(C)C(CC)N1CCC(CC1)CCCC(=N)NO | C14H29N3O
reactant | 4-cyclohexylbenzoyl chloride | C1(CCCCC1)C1=CC=C(C(=O)Cl)C=C1 | C13H15ClO
product | 1-(1-Ethylpropyl)-4-{3-[5-(4-cyclohexylphenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CCCC1=NOC(=N1)C1=CC=C(C=C1)C1CCCCC1 | InChI=1S/C27H41N3O.ClH/c1-3-25(4-2)30-19-17-21(18-20-30)9-8-12-26-28-27(31-29-26)24-15-13-23(14-16-24)22-10-6-5-7-11-22;/h13-16,21-22,25H,3-12,17-20H2,1-2H3;1H
